Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ampicillin / Voltaren / Lorzone / Levaquin / scallops / 
gabapentin / shellfish derived / spider bite / Wellbutrin
 
Attending: ___
 
Chief Complaint:
Nausea, Vomiting
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ with a history of Mullerian
agenesis and recently diagnosed cT2N0M0 stage IIA squamous cell
carcinoma of the anal canal at the anal/rectal junction
(diagnosed on ___, now C1D4 of Mitomycin/CI ___, who
presents with nausea and vomiting.

Patient stated she has felt nauseous all week and has been
vomiting approximately ___ times per day. She denies any
hematemesis. Prior to presentation to the ED, she reported 2
episodes of bilious emesis at home and followed by once during
radiation. She was referred to the ED for additional evaluation
and management. Per patient, she also reported feeling flushed
and warm at home. Denied any hematuria or urinary frequency,
though did report intermittent dysuria which has now resolved.
Denies any abdominal pain, diarrhea. States she had some
abdominal soreness after dry heaving in the ED. She has been
having normal bowel movements. No melena, hematochezia or BRBPR.
Denies any chest pain or shortness of breath. No headache or
worsening neck stiffness. No rash. No lower extremity edema or
pain.

In the ED, Initial vitals: Temp 100.6, HR 78, BP 134/72, RR 16,
97% RA
Exam notable for soft, nontedner abdomen. 

Labs notable for:
- Normal CBC: WBC 6.3, Hgb 12.1, Plt 268
- Normal BMP: Na 139, K 3.7, Cl 100, Bicarb 26, BUN 8, Cr 0.9,
glucose 106
- Lipase 112
- Lactate 0.9
- Unremarkable UA ___ blood, neg leuk, 1 WBC, no bacteria, 20
ketones)
- Flu negative

Imaging notable for:
- CT Abd & Pelvis With Contrast: Subtle urothelial enhancement 
of
the left proximal ureter and mild wall thickening of the urinary
bladder may represent cystitis and ascending UTI. Recommend
correlation with urinalysis. Nodal cancer and Sub-5 mm lymph
nodes in the mesocolon, better assessed on prior MR. ___ 
pelvic
free fluid.
- CXR PA/lat: No acute intrathoracic process.
Pt given:
- 2L NS
- IV Morphine 4mg x1
- IV Zofran 4mg x2
- PO Acetaminophen 100mg x1
- IV cefepime 2g x2
- PO olanzapine 5mg x1
- Fluticasone propionate 110mcg

Vitals prior to transfer:
T98.0, HR 85, BP 102/53, RR 16, 94% RA

Upon arrival to the floor, the patient reports feeling much
better than before. States she hasn't vomited in about 24 hours.
Feels like the 5mg dose of olanzapine last night helped his
symptoms. Otherwise confirms history as above. 
 
Past Medical History:
Ms. ___ first noted constipation and blood in her stool about
late ___, she attributed this to tramadol which she had been
taking for neck pain. She stopped the tramadol and constipation
improved but blood persisted. She also noted progressive
unintentional weight loss up to about 25lb. This prompted
Cologard testing ___ which led to a colonoscopy ___ 
which
revealed a sessile serrated adenoma that was removed, as well as
an erythematous and ulcerated anorectal lesion. ___ she was
seen by Dr.  ___. At that point she noted pink drainage or
streaking of stools with some drops of blood in the toilet after
BM's. Anoscopy demonstrated a posterior midline lesion and exam
under anesthesia ___ demonstrated a solid non-mobile distal
rectal lesion extending from 2cm proximal to the dentate line on
the anal verge, approximately 5cm long, biopsy revealed 
fragments
of invasive squamous cell carcinoma moderately to poorly
differentiated present in anorectal junctional tissue, with IHC
positive for CK5/6, P16 and P40, c/w an HPV associated cancer. 
She had a rectal MRI ___ which revaled about 3cm of
hyperenhancement at the anorectal junction without a descrete
lesion, thought to represent T2 disease. There were no 
concerning
lymph nodes. CT torso ___ revealed no evidence of 
metastatic
disease, only some small non-specific lung nodules. 

She was first seen in Rectal ___ on 
___
by Dr. ___ Dr. ___. 

___ C1D1 Mitomycin/CI ___
 
Social History:
___
Family History:
Her father died of lung cancer age ___, her brother died of ___ age ___. She has one sister who is ___. Her mother had a
meningioma. No other family history of cancer. 
 
Physical Exam:
Vitals:  24 HR Data (last updated ___ @ 2315)
    Temp: 97.4 (Tm 99.4), BP: 110/63 (110-116/63-68), HR: 80
(78-80), RR: 18 (___), O2 sat: 97%, O2 delivery: Ra
GENERAL: Resting comfortably in bed, NAD
HEENT: OP with mild erythema over posterior oropharynx,
otherwise, no lesions or thrush
EYES: PERRL, anicteric
NECK: supple, no JVD
RESP: No increased WOB, no wheezing, rhonchi or crackles
___: RRR, no murmurs
GI: soft, non-tender, no rebound or guarding, ___ pack around
abdomen
EXT: no edema, warm
SKIN: dry, no obvious rashes
NEURO: alert, fluent speech
ACCESS: POC, dressing C/D/I but with numerous steristrips in 
place
 
Pertinent Results:
___ 06:01AM BLOOD WBC-5.0 RBC-4.07 Hgb-11.6 Hct-36.4 MCV-89 
MCH-28.5 MCHC-31.9* RDW-14.2 RDWSD-46.2 Plt ___
___ 05:51PM BLOOD WBC-6.3 RBC-4.30 Hgb-12.1 Hct-38.6 MCV-90 
MCH-28.1 MCHC-31.3* RDW-14.3 RDWSD-47.0* Plt ___
___ 06:01AM BLOOD Glucose-111* UreaN-9 Creat-0.8 Na-141 
K-3.5 Cl-103 HCO3-26 AnGap-12
___ 04:07PM BLOOD Glucose-106* UreaN-8 Creat-0.9 Na-139 
K-3.7 Cl-100 HCO3-26 AnGap-13
___ 04:07PM BLOOD ALT-16 AST-26 AlkPhos-56 TotBili-0.8
___ 06:01AM BLOOD Calcium-8.9 Phos-3.7 Mg-2.1
___ 04:07PM BLOOD Albumin-4.3 Calcium-9.5 Phos-3.3 Mg-2.1
___ 04:12PM BLOOD Lactate-0.___ with a history of Mullerian agenesis and recently
diagnosed cT2N0M0 stage IIA squamous cell carcinoma of the anal
canal at the anal/rectal junction (diagnosed on ___, now
C1D4 of Mitomycin/CI ___, who presents with nausea and vomiting

#Intractable Nausea/Vomiting
Possibly ___ therapy and/or radiation. Slightly improved
after olanzapine and slowly tolerating increased PO intake. 
Lower
suspicion of enterotoxicity given lack of diarrhea. She received
antiemetics and IVF and improved quickly, tolerating full diet.

#Stage IIA SCC of anal canal
On C1 of mitomycin/CI ___ and completed the infusion and a 
session of radiation while inpatient.
- f/u w/ Dr. ___ 

#Depression/PTSD
- c/w home duloxetine

#Vit D deficiency
- c/w home Vit D
 
#Asthma
- c/w home albuterol, flovent PRN
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing, SOB 
2. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN SOB 
3. Vitamin D 1000 UNIT PO DAILY 
4. DULoxetine ___ 40 mg PO QHS 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. OLANZapine ___ mg PO QHS:PRN nausea 
7. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line NOT relieved by Ondansetron 
8. Multivitamins 1 TAB PO DAILY 
9. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 

 
Discharge Medications:
1.  Ondansetron ___ mg PO Q8H:PRN Nausea/Vomiting - First Line  
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing, SOB  
3.  DULoxetine ___ 40 mg PO QHS  
4.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
5.  Multivitamins 1 TAB PO DAILY  
6.  OLANZapine ___ mg PO QHS:PRN nausea  
7.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN SOB  
8.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line NOT relieved by Ondansetron  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cT2N0M0 stage IIA anal cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for nausea and vomiting and this spontaneously 
resolved. Please stay hydrated and follow up with your 
oncologist.
 
Followup Instructions:
___